US07589076B2
Benzyl 4-(prop-2-ynyl)piperidine-1-carboxylate.
Benzyl chloroformate (6.9 g, 40.4 mmol) was added to a solution of tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate (1.65 g, 13.4 mmol) according to general procedure 1. Yield=0.700 g, 37%. m/z MH+=258.02. HPLC rt=10.2 min.

reactant | Benzyl chloroformate | 40.4 mmol, 6.9 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | tert-butyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 13.4 mmol, 1.65 g | C(C#C)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21NO2
product | Benzyl 4-(prop-2-ynyl)piperidine-1-carboxylate | C(C#C)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H19NO2
